US08912186B2
By a procedure similar to that of example 1.115.1, starting from 3,4-dichlorophenylacetyl chloride and ethyl N-phenyl-3-aminopropionate, ethyl 3-[2-(3,4-dichlorophenyl)-N-phenyl-acetamido]propanoate was obtained as yellowish oil.

reactant | 3,4-dichlorophenylacetyl chloride | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
reactant | ethyl N-phenyl-3-aminopropionate | C1(=CC=CC=C1)NCCC(=O)OCC | C11H15NO2
product | ethyl 3-[2-(3,4-dichlorophenyl)-N-phenyl-acetamido]propanoate | ClC=1C=C(C=CC1Cl)CC(=O)N(C1=CC=CC=C1)CCC(=O)OCC | C19H19Cl2NO3
